US07812251B2
(b) Preparation of 2-amino-4-nonadecylpyridine (2)
A mixture of 0.5 molar portion of 4-nonadecylpyridine, 0.59 mole of sodium amide and 1.18 moles of N,N-dimethylaniline was heated at 150° C. for six hours. The reaction mixture, after cooling, was poured into water, and the dimethylaniline layer was separated and dried over anhydrous potassium carbonate. After removal of the solvent in vacuo the residue was stirred in petroleum ether and crystallized from ethyl acetate/ligroin. Yield 45%. Anal. Calcd for C24H44N2: C, 79.93; H, 12.30; N, 7.77. Found: C, 79.63; H, 12.40; N, 7.60. MS (ESIMS): m/z: 360.4.

reactant | 4-nonadecylpyridine | C(CCCCCCCCCCCCCCCCCC)C1=CC=NC=C1 | C24H43N
reactant | sodium amide | 0.59 mole | [NH2-].[Na+]
reactant | N,N-dimethylaniline | 1.18 moles | CN(C1=CC=CC=C1)C | C8H11N
solvent | water | O | H2O
product | 2-amino-4-nonadecylpyridine | Yield 45% | NC1=NC=CC(=C1)CCCCCCCCCCCCCCCCCCC | C24H44N2
